US06211234B1
A mixture of 4-(3-thienylmethoxy)-2-[2-(trimethylsilyl)ethoxy]methoxybenzoic acid (3.09 g), methyl aminoacetate hydrochloride (0.99 g), 1-hydroxybenzotriazole (1.28 g), triethylamine (0.8 g) and dimethylformamide (50 mL) is stirred at ambient temperature for 16 hours. It is then concentrated in vacuo and the resulting residue is dissolved in ethyl acetate (100 mL), washed quickly with hydrochloric acid (2×50 mL; 1 N), and then washed with saturated aqueous sodium bicarbonate solution (50 mL) and with water (50 mL), then dried over magnesium sulphate, filtered and concentrated in vacuo, to give 1-[N-(methoxycarbonylmethyl)carbamoyl]-4-(3-thienylmethoxy)-2-[2-(trimethylsilyl)ethoxy]methoxybenzene, in the form of a yellow oil.

reactant | 4-(3-thienylmethoxy)-2-[2-(trimethylsilyl)ethoxy]methoxybenzoic acid | 3.09 g | S1C=C(C=C1)COC1=CC(=C(C(=O)O)C=C1)OCOCC[Si](C)(C)C | C18H24O5SSi
reactant | methyl aminoacetate hydrochloride | 0.99 g | Cl.NCC(=O)OC
reactant | 1-hydroxybenzotriazole | 1.28 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.8 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-[N-(methoxycarbonylmethyl)carbamoyl]-4-(3-thienylmethoxy)-2-[2-(trimethylsilyl)ethoxy]methoxybenzene | COC(=O)CNC(=O)C1=C(C=C(C=C1)OCC1=CSC=C1)OCOCC[Si](C)(C)C | C21H29NO6SSi
